US07595398B2
4-(2-Amino-thiazol-4-yl)-benzoic acid
A solution of 4-acetyl-benzoic acid (10 g, 61 mmol), in HOAc (400 mL) at 55° C. was treated with bromine (1 eq., 3.12 mL) dropwise over 10 minutes. After 90 minutes the reaction was cooled, the acetic acid was removed, ethyl acetate (50 mL) was added and then removed to get rid of the remainder of the acetic acid. The crude bromo ketone was then dissolved in ethanol (200 mL) with NaOAc (12 g) and thiourea (1 eq. 4.4 g) was added. The suspension was stirred at room temperature for 15 hours. The solvents were removed and the solids washed with water (3×100 mL) then ether:ethanol (4:1, 3×100 mL) and dried to give the product as a tan solid. MS: 221.2 (M+H+).

reactant | 4-acetyl-benzoic acid | 61 mmol, 10 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | bromine | 3.12 mL, 1 eq. | BrBr | Br2
reactant | bromo ketone | BrC(=O)Br | CBr2O
reactant | NaOAc | 12 g | CC(=O)[O-].[Na+]
reactant | thiourea | 4.4 g, 1 eq | NC(=S)N | CH4N2S
solvent | HOAc | 400 mL | CC(=O)O | C2H4O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-(2-Amino-thiazol-4-yl)-benzoic acid | NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2S
